US08242133B2
To a mixture of 1.34 g of N-(1,1,3,3-tetrafluoro-6-hydroxy-1,3-dihydroisobenzofuran-5-yl)isonicotinamide, 10 ml of tetrahydrofuran and 1.07 g of triphenylphosphine, 2.67 g of 40% toluene solution of diethyl azodicarboxylate was added dropwise at room temperature. After 30 minutes, 1.07 g of triphenylphosphine was added, 2.67 g of 40% toluene solution of diethyl azodicarboxylate was added dropwise thereto and stirred for further two hours. Water was added thereto, followed by extraction with ethyl acetate twice. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and the resultant solid was recrystallized to give 0.14 g of 5,5,7,7-tetrafluoro-2-pyridin-4-yl-5,7-dihydro-furo[3′,4′:4,5]benzo[1,2-d]oxazole (hereinafter, referred to as “active compound 16”).

reactant | N-(1,1,3,3-tetrafluoro-6-hydroxy-1,3-dihydroisobenzofuran-5-yl)isonicotinamide | 1.34 g | FC1(OC(C2=CC(=C(C=C12)O)NC(C1=CC=NC=C1)=O)(F)F)F | C14H8F4N2O3
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | triphenylphosphine | 1.07 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 1.07 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | Water | O | H2O
solvent | toluene | 2.67 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2.67 g | C1(=CC=CC=C1)C | C7H8
product | 5,5,7,7-tetrafluoro-2-pyridin-4-yl-5,7-dihydro-furo[3′,4′:4,5]benzo[1,2-d]oxazole | 0.14 g | FC1(OC(C2=CC3=C(N=C(O3)C3=CC=NC=C3)C=C21)(F)F)F | C14H6F4N2O2
